### PR TITLE
[Merged by Bors] - chore: add a minimised test for field_simp under weaker typeclasses

### PR DESCRIPTION
**Pull request by grunweg**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: MathlibTest/FieldSimp.lean [hunk 1]
```diff
@@ -700,6 +700,35 @@ example {K : Type} [CommGroupWithZero K] {x y : K} : y / x * x ^ 3 * y ^ 3 = x ^
 example {K : Type} [Semifield K] {x y : K} (h : x + y ≠ 0) : x / (x + y) + y / (x + y) = 1 := by
   field_simp
 
+-- Extracted from `Analysis/SpecificLimits/Basic.lean`
+
+-- TODO: why does this fail?
+/-- error: field_simp made no progress on goal -/
```
Comment (hrmacbeth) [inline MathlibTest/FieldSimp.lean]: I would annotate this differently: you've put the example in the right section ("Algebraic structures weaker than `Field`"), and the point is simply that `field_simp` assumes commutativity and does nothing in its absence.  It's not a TODO!

File: MathlibTest/FieldSimp.lean [hunk 2]
```diff
@@ -700,6 +700,35 @@ example {K : Type} [CommGroupWithZero K] {x y : K} : y / x * x ^ 3 * y ^ 3 = x ^
...
+#guard_msgs in
+example {𝕜 : Type*} [DivisionRing 𝕜] {n' x : 𝕜} (hn : n' ≠ 0) :
+    1 / (1 + x / n') = n' / (n' + x) := by
+  have : n'  ≠ 0 := sorry
+  have : n' + x ≠ 0 := sorry
```
Comment (hrmacbeth) [inline MathlibTest/FieldSimp.lean]: Make these hypotheses (to avoid having unnecessary sorries in the file)?

File: MathlibTest/FieldSimp.lean [hunk 3]
```diff
@@ -700,6 +700,35 @@ example {K : Type} [CommGroupWithZero K] {x y : K} : y / x * x ^ 3 * y ^ 3 = x ^
 example {K : Type} [Semifield K] {x y : K} (h : x + y ≠ 0) : x / (x + y) + y / (x + y) = 1 := by
   field_simp
 
+-- Extracted from `Analysis/SpecificLimits/Basic.lean`
+
+-- TODO: why does this fail?
+/-- error: field_simp made no progress on goal -/
+#guard_msgs in
+example {𝕜 : Type*} [DivisionRing 𝕜] {n' x : 𝕜} (hn : n' ≠ 0) :
```
Comment (hrmacbeth) [inline MathlibTest/FieldSimp.lean]:
```suggestion
example {K : Type*} [DivisionRing K] {n' x : K} (hn : n' ≠ 0) :
```
for consistency with the two examples above

File: MathlibTest/FieldSimp.lean [hunk 4]
```diff
@@ -700,6 +700,35 @@ example {K : Type} [CommGroupWithZero K] {x y : K} : y / x * x ^ 3 * y ^ 3 = x ^
...
+error: unsolved goals
+𝕜 : Type u_1
+inst✝ : Field 𝕜
+a x : 𝕜
+⊢ 1 / (1 + x / a) = a / (a + x)
+-/
+#guard_msgs in
+example {𝕜 : Type*} [Field 𝕜] {a x : 𝕜} :
+    1 / (1 + x / a) = a / (a + x) := by
+  field_simp
```
Comment (hrmacbeth) [inline MathlibTest/FieldSimp.lean]: This is false if `a = 0`, right? (LHS is 1, RHS is 0.) So I don't think the failure is worth documenting.

File: MathlibTest/FieldSimp.lean (hunk 2 above)
Comment (grunweg) [reply MathlibTest/FieldSimp.lean]: Good idea!

**Comment by hrmacbeth** [comment]
Thanks!

bors r+
